US07141596B2
Step 6. Synthesis of 5-[2-bromo-4-(hydroxymethyl)phenyl]isothiazolidin-3-one 1,1-dioxide
To a solution of methyl 3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzoate (77.0 mg, 0.221 mmol) in tetrahydrofuran (6 mL) was added 2 M lithium tetrahydroborate in tetrahydrofuran (332 μL) at room temperature. The resulting solution was stirred at room temperature overnight. The reaction solution was diluted with methanol, and stirred for 0.5 h. The crude material was purified by preparative LCMS to give a white solid (65 mg, 92%). 1H NMR (400 MHz, CD3OD): δ 7.57 (s, 1H), 7.46 (m, 2H), 5.30 (dd, J=9.0, 5.9 Hz, 1H), 4.49 (s, 2H), 3.26 (m, 1H), 2.97 (dd, J=17.2, 5.7 Hz, 1H). LCMS found for C10H10BrNO4SNa (M+Na)+: m/z=342, 344.

reactant | methyl 3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzoate | 0.221 mmol, 77.0 mg | BrC=1C=C(C(=O)OC)C=CC1C1CC(NS1(=O)=O)=O | C11H10BrNO5S
reactant | lithium tetrahydroborate | 2 M | [BH4-].[Li+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 332 μL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 5-[2-bromo-4-(hydroxymethyl)phenyl]isothiazolidin-3-one 1,1-dioxide | 65 mg, 92% | BrC1=C(C=CC(=C1)CO)C1CC(NS1(=O)=O)=O | C10H10BrNO4S
